US07410986B2
A mixture of 2-[(4-methoxybenzyl)oxy]acetophenone, 3-hydroxy-4-nitrobenzaldehyde, malononitrile, ammonium acetate and toluene was stirred under reflux for 3 hrs. The usual work-up and column chromatography gave 2-amino-4-(3-hydroxy-4-nitrophenyl)-6-{2-[(4-methoxybenzyl)oxy]-phenyl}nicotinonitrile.

reactant | 2-[(4-methoxybenzyl)oxy]acetophenone | COC1=CC=C(COCC(=O)C2=CC=CC=C2)C=C1 | C16H16O3
reactant | 3-hydroxy-4-nitrobenzaldehyde | OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H5NO4
reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-amino-4-(3-hydroxy-4-nitrophenyl)-6-{2-[(4-methoxybenzyl)oxy]-phenyl}nicotinonitrile | NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)[N+](=O)[O-])O | C26H20N4O5
